US06689806B1
4-(2-Hydroxyethyl)-1,3-dihydroindol-2-one (89 mg, 0.5 mmol) was condensed with 6-methyl-2-pyridinecarbaldehyde (61 mg, 0.5 mmol) using method B to give 4-(2-hydroxyethyl)-3-(6-methylpyridin-2-ylmethylene)-1,3-dihydroindol-2-one as a yellow solid.

reactant | 4-(2-Hydroxyethyl)-1,3-dihydroindol-2-one | 0.5 mmol, 89 mg | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | 6-methyl-2-pyridinecarbaldehyde | 0.5 mmol, 61 mg | CC1=CC=CC(=N1)C=O | C7H7NO
product | 4-(2-hydroxyethyl)-3-(6-methylpyridin-2-ylmethylene)-1,3-dihydroindol-2-one | OCCC1=C2C(C(NC2=CC=C1)=O)=CC1=NC(=CC=C1)C | C17H16N2O2
